US07553840B2
A microwave vial (2 ml) was charged with (S)-3-(4-{2-amino-6-[(S)-1-(4-bromo-phenyl)-2,2,2-trifluoro-ethoxy]-pyrimidin-4-yl}-phenyl)-2-tert-butoxycarbonylamino-propionic acid (139 mg, 0.23 mmol), 3-methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)-pyridine (69 mg, 0.27 mmol), 1 ml of acetonitrile, and 0.7 ml of water. To this mixture was added 0.4 ml of aqueous sodium carbonate (1M), followed by 14 mg of dichlorobis-(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated to 150° C. for 5 minutes with microwave irradiation. After cooling, the reaction mixture was evaporated to dryness, the residue was dissolved in 2.5 ml of methanol and purified by preparative HPLC to give 60 mg of (S)-3-[4-(2-amino-6-{(S)-2,2,2-trifluoro-1-[4-(5-methoxy-pyridin-3-yl)-phenyl]-ethoxy}-pyrimidin-4-yl)-phenyl]-2-tert butoxycarbonylamino-propionic acid.

reactant | (S)-3-(4-{2-amino-6-[(S)-1-(4-bromo-phenyl)-2,2,2-trifluoro-ethoxy]-pyrimidin-4-yl}-phenyl)-2-tert-butoxycarbonylamino-propionic acid | 0.23 mmol, 139 mg | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)O[C@H](C(F)(F)F)C1=CC=C(C=C1)Br | C26H26BrF3N4O5
reactant | 3-methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)-pyridine | 0.27 mmol, 69 mg | COC=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO3
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
reactant | sodium carbonate | 1M, 0.4 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis-(triphenylphosphine)-palladium(II) | 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.7 ml | O | H2O
product | (S)-3-[4-(2-amino-6-{(S)-2,2,2-trifluoro-1-[4-(5-methoxy-pyridin-3-yl)-phenyl]-ethoxy}-pyrimidin-4-yl)-phenyl]-2-tert butoxycarbonylamino-propionic acid | 60 mg | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)O[C@H](C(F)(F)F)C1=CC=C(C=C1)C=1C=NC=C(C1)OC | C32H32F3N5O6
